US07834044B2
(b) (RS)-4-(1H-Imidazol-2-ylmethyl)-3-methyl-3,4-dihydro-2H-benzo[1,4]oxazine
Prepared analogously to Example 1, from (RS)-3-methyl-3,4-dihydro-2H-benzo[1,4]oxazine, imidazole-2-carboxaldehyde, zinc chloride and sodium cyanoborohydride in methanol. MS (ISP): 230.4 ([M+H]+).

reactant | (RS)-3-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | CC1COC2=C(N1)C=CC=C2 | C9H11NO
reactant | imidazole-2-carboxaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | (RS)-4-(1H-Imidazol-2-ylmethyl)-3-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | N1C(=NC=C1)CN1C(COC2=C1C=CC=C2)C | C13H15N3O
